US04636516
In 10ml of acetic acid was dissolved 0.6 g of 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-1,2-propanedione and then after adding thereto 0.3 g of benzaldehyde and 2.2 g of ammonium acetate, the mixture was refluxed for 3 hours. The reaction mixture was concentrated and the residue formed was mixed with 20 ml of water, neutralized by the addition of concentration aqueous ammonia, and extracted with chloroform. The extract was dried and concentrated under reduced pressure. The crystals thus formed were purified by silica gel column chromatography using chloroform as the eluent and recrystallized from aqueous ethanol to provide 0.3 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyl-2-phenylimidazole.

reactant | 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-1,2-propanedione | 0.6 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(C)=O)=O | C17H24O3
reactant | benzaldehyde | 0.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium acetate | 2.2 g | C(C)(=O)[O-].[NH4+]
reactant | ammonia | N | H3N
solvent | acetic acid | 10ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyl-2-phenylimidazole | 0.3 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C(NC1C)C1=CC=CC=C1 | C24H30N2O
